US05750680
To a solution of diisopropylamine 14 ml (100 mmol) in tetrahydrofuran 40 ml free of moisture, 40 ml (100 mmol) of 2.5M n-butyllithium was added, and the resulting solution was stirred at -78° C. for 30 min and allowed to react until the temperature was elevated up to room temperature. After being frozen down to -78° C., 11.1 g (100 mmol) of N-vinylpyrrolidinone was added to the solution and subjected to reaction, at the same temperature for 30 min. Thereafter, 24 g (110 mmol) of di(t-butyl)dicarbonate was added dropwise, followed by the reaction at -78° C. for 2 hours. This reaction was diluted with diethylether and washed many times with pure water. The organic solvent of the organic phase was distilled and the residue was subjected to silica gel column chromatography, to obtain 15 g of pure 3-(t-butoxycarbonyl)-1-vinyl-2-pyrrolidinone (hereinafter referred to as "BCVP"). Its chemical structure was determined by IR spectra and NMR.

reactant | diisopropylamine | 100 mmol, 14 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 100 mmol, 2.5M, 40 ml | C(CCC)[Li]
reactant | N-vinylpyrrolidinone | 100 mmol, 11.1 g | C(=C)N1C(CCC1)=O | C6H9NO
reactant | di(t-butyl)dicarbonate | 110 mmol, 24 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | diethylether | C(C)OCC | C4H10O
product | 3-(t-butoxycarbonyl)-1-vinyl-2-pyrrolidinone | 15 g | C(C)(C)(C)OC(=O)C1C(N(CC1)C=C)=O | C11H17NO3
